US05712267
14(b) (1R, 5S, 6S)-2-[(2S, 4S)-2-(cis-3,5-Dimethyl-1-piperazinylcarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid hydrochloride
The whole of the 4-nitrobenzyl (1R, 5S, 6S)-2-[(2S, 4S)-2-(cis-3,5-dimethyl-1-piperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate prepared as described in step (a) above was dissolved in 4 ml of a 1:1 by volume mixture of tetrahydrofuran and water, after which 261 μl of 1N aqueous hydrochloric acid were added, and the mixture was hydrogenated by bubbling hydrogen through it at room temperature for 2 hours in the presence of 0.2 g of 10% w/w palladium-on-charcoal. At the end of this time, the reaction mixture was worked up and purified by the same procedure as described in Example 8(b), to give 27 mg of the title compound as a powder.

reactant | 4-nitrobenzyl (1R, 5S, 6S)-2-[(2S, 4S)-2-(cis-3,5-dimethyl-1-piperazinylcarbonyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | C[C@@H]1CN(C[C@@H](N1)C)C(=O)[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C36H42N6O11S
reactant | hydrochloric acid | 1N, 261 μl | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (1R, 5S, 6S)-2-[(2S, 4S)-2-(cis-3,5-Dimethyl-1-piperazinylcarbonyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid hydrochloride | 27 mg | Cl.C[C@@H]1CN(C[C@@H](N1)C)C(=O)[C@H]1NC[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C | InChI=1S/C21H32N4O5S.ClH/c1-9-7-24(8-10(2)23-9)19(27)14-5-13(6-22-14)31-18-11(3)16-15(12(4)26)20(28)25(16)17(18)21(29)30;/h9-16,22-23,26H,5-8H2,1-4H3,(H,29,30);1H/t9-,10+,11-,12-,13+,14+,15-,16-;/m1./s1
